US04794188
2-[3-(1-Methoxyhexyl)phenoxymethyl]quinoline
To a suspension of sodium hydride (0.5 g) in ethyl ether at 0° C. is added 2-[3-(1-hydroxyhexyl)phenoxymethyl]quinoline (1.8 g) in ether. The mixture is allowed to warm to room temperature. Methyl iodide (0.6 ml) is added and the reaction is stirred at room temperature for three days. The reaction mixture is quenched with saturated aqueous ammonium chloride and extracted with ethyl ether. The organic extract is washed with water, dried (MgSO4) and concentrated to an oil, which is purified by HPLC on silica gel using a 1:9 ratio of ethyl acetate/hexane as an eluent.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 2-[3-(1-hydroxyhexyl)phenoxymethyl]quinoline | 1.8 g | OC(CCCCC)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C22H25NO2
reactant | Methyl iodide | 0.6 ml | CI | CH3I
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-[3-(1-Methoxyhexyl)phenoxymethyl]quinoline | COC(CCCCC)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C23H27NO2
